US08735579B2
3-benzyloxy-5-chloro-4-methyl-benzoyl chloride
350 mg 3-benzyloxy-5-chloro-4-methyl-benzoic acid in 10 ml acetonitrile are combined with 0.60 ml thionylchloride and gently refluxed for 15 minutes. Then the reaction mixture is evaporated down and evaporated again with toluene. The acid chloride is further reacted without any further purification.

reactant | 3-benzyloxy-5-chloro-4-methyl-benzoic acid | 350 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C)Cl | C15H13ClO3
reactant | thionylchloride | 0.60 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-benzyloxy-5-chloro-4-methyl-benzoyl chloride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=C(C1C)Cl | C15H12Cl2O2
